US07943622B2
Step 2. Synthesis of 1-(phenylsulfonyl)-2-((pyridin-3-yloxy)methyl)piperazine dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to tert-butyl 4-(phenylsulfonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt (122 mg, 0.223 mmol). After 1 h, the reaction mixture was concentrated under reduced pressure, yielding 82.4 mg (91%) of the desired product as a yellow solid. LC-MS: RT=3.71 min, [M+H]+=334.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(phenylsulfonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt | 0.223 mmol, 122 mg | OC(=O)C(F)(F)F.C1(=CC=CC=C1)S(=O)(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1
product | 1-(phenylsulfonyl)-2-((pyridin-3-yloxy)methyl)piperazine dihydrochloride | 82.4 mg, 91% | Cl.Cl.C1(=CC=CC=C1)S(=O)(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C16H19N3O3S.2ClH/c20-23(21,16-6-2-1-3-7-16)19-10-9-18-11-14(19)13-22-15-5-4-8-17-12-15;;/h1-8,12,14,18H,9-11,13H2;2*1H
